US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-{[{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}(methyl)amino]methyl}benzamide
To a solution of 1,1-dimethylethyl 4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-phenyl}methyl)(methyl)amino]-methyl}-2′-fluoro-3-biphenylyl)methyl]-1-piperazinecarboxylate (0.386 g, 0.463 mmol) in DCM (3.6 mL) was added TFA (1.8 mL) and this mixture was stirred at room temperature for 100 min before being quenched with NaHCO3 (sat. aq.). This mixture was extracted with DCM, concentrated, purified using a Gilson HPLC (with TFA). Product was basified with an amine cartridge to afford 0.068 g (20%) of the title compound. LC-MS m/z 733 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ ppm 1.40 (t, J=7.65 Hz, 3 H) 1.49 (t, J=7.15 Hz, 3 H) 1.79-1.92 (m, 2 H) 2.05-2.14 (m, 2 H) 2.74 (s, 3 H) 3.18 (q, J=7.61 Hz, 2 H) 3.43-3.58 (m, 8 H) 3.63-3.72 (m, 2 H) 3.99-4.07 (m, 2 H) 4.30-4.62 (m, 9 H) 4.72 (s, 2 H) 7.34 (dd, J=10.42, 8.66 Hz, 1 H) 7.54-7.65 (m, 4 H) 7.67-7.78 (m, 4 H) 8.02 (d, J=8.03 Hz, 1 H) 8.12 (s, 1 H) 8.29 (s, 1 H).

reactant | 1,1-dimethylethyl 4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-phenyl}methyl)(methyl)amino]-methyl}-2′-fluoro-3-biphenylyl)methyl]-1-piperazinecarboxylate | 0.463 mmol, 0.386 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)CN(C)CC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)F)CC | C48H61FN8O4
reactant | TFA | 1.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3.6 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-{[{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}(methyl)amino]methyl}benzamide | 0.068 g, 20% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC(=CC=C2)CN(C)CC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCNCC2)=O)CC | C43H53FN8O2
